US07968720B2
[5-Chloro-2-(3-methoxy-propyl)-pyridin-4-ylmethyl]-cyclopropyl-carbamic Acid tert-butyl Ester
Boc2O (10.2 g, 45.9 mmol) was added to a sol. of [5-chloro-2-(3-methoxy-propyl)-pyridin-4-ylmethyl]-cyclopropyl-amine (7.79 g, 30.6 mmol) and DIPEA (13.1 mL, 76.5 mmol) in CH2Cl2 (270 mL). The mixture was stirred at rt for 1 h, and was cooled to 0° C. The mixture was neutralized to pH 6 with aq. 1M HCl under efficient stirring, and the layers were separated. The aq. layer was extracted with CH2Cl2 (2×). The combined org. extracts were dried over MgSO4, filtered, and the solvents were removed under reduced pressure. Purification of the crude by FC (EtOAc/heptane 1:3→1:2) yielded the title compound (7.83 g, 72%). LC-MS: tR=0.97 min; ES+: 355.09.

reactant | Boc2O | 45.9 mmol, 10.2 g | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | [5-chloro-2-(3-methoxy-propyl)-pyridin-4-ylmethyl]-cyclopropyl-amine | 30.6 mmol, 7.79 g | ClC=1C(=CC(=NC1)CCCOC)CNC1CC1 | C13H19ClN2O
reactant | DIPEA | 76.5 mmol, 13.1 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | HCl | 1M | Cl | ClH
solvent | CH2Cl2 | 270 mL | C(Cl)Cl | CH2Cl2
product | [5-Chloro-2-(3-methoxy-propyl)-pyridin-4-ylmethyl]-cyclopropyl-carbamic Acid tert-butyl Ester | 7.83 g, 72% | C(C)(C)(C)OC(N(C1CC1)CC1=CC(=NC=C1Cl)CCCOC)=O | C18H27ClN2O3
